US09102616B2
(9) Synthesis of 5-(6-bromonaphthalen-2-yl)-N1,N3-bis(4-methoxyphenyl)-N1,N3-diphenylbenzene-1,3-Diamine
13.42 g of a product (yield: 66%) was obtained in the same manner as described in the synthesis method of intermediate 2-3 except that N1,N3-bis(4-methoxyphenyl)-N1,N3-diphenyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene-1,3-diamine (17.76 g, 30 mmol), 2,6-dibromonaphthalene (9.44 g, 33 mmol), Pd(PPh3)4 (1.04 g, 0.9 mmol), K2CO3 (12.44 g, 90 mmol), THF (90 mL), and water (45 mL) were used.

reactant | N1,N3-bis(4-methoxyphenyl)-N1,N3-diphenyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene-1,3-diamine | 30 mmol, 17.76 g | COC1=CC=C(C=C1)N(C1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)N(C1=CC=CC=C1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C38H39BN2O4
reactant | 2,6-dibromonaphthalene | 33 mmol, 9.44 g | BrC1=CC2=CC=C(C=C2C=C1)Br | C10H6Br2
reactant | K2CO3 | 90 mmol, 12.44 g | C(=O)([O-])[O-].[K+].[K+]
reactant | THF | 90 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.9 mmol, 1.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 45 mL | O | H2O
product | 5-(6-bromonaphthalen-2-yl)-N1,N3-bis(4-methoxyphenyl)-N1,N3-diphenylbenzene-1,3-Diamine | BrC=1C=C2C=CC(=CC2=CC1)C=1C=C(C=C(C1)N(C1=CC=CC=C1)C1=CC=C(C=C1)OC)N(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C42H33BrN2O2
